Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
SOB
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ w/metastatic pancreatic cancer, COPD, Afib presents with 
increasing SOB. Pt reports having SOB since PNA in ___, 
however has been progressive and now with orthopnea. He has 
noticed increased swelling in the lower extremities, decreased 
urination, dark urine, nonproductive cough. Reports LUQ pain 
which is worse with coughing. He denies fever, chills, pluertic 
chest pain, DOE, chest pain. Pt was recently started on po 
lasix. Also was given a nebulizer treatment (his daughter's 
albuterol) with symptomatic improvement.

In ED pt given vanc/cefepime. BNP 2363. Given 40mg IV lasix. On 
arrival to floor family reports pt has been urinating a lot 
since lasix and breathing is much improved.

ROS: +as above, otherwise reviewed and negative
 
Past Medical History:
-atrial fibrillation s/p DCCV on Pradaxa
-Hypertension
-Hyperlipidemia
-COPD
Pertinent Oncologic history:
-Diagnosed ___ 3.9 cm moderately differentiated 
adenocarcinoma
of the pancreatic head with ___ nodes involved with clean
margins. LVI + , PNI + (pT3N1)
-s/p Whipple ___ by Dr ___.  
-Post op course complicated by a-fib with rapid ventricular 
rate, s/p DCCV
-Post-op infection D8 treated with Levaquin. 
-Adjuvant treatment: 6 months of Gemzar total with RT and
concurrent CI ___ in a sandwich approach after 2 cycles.
-Started ___ protocol ___ with Gem/Abraxane +/- PEGPH20 
(PEGylated Recombinant Human Hyaluronidase) and randomized to 
PEG arm      
 
Social History:
___
Family History:
brother with lung cancer, no history GI cancer

 
Physical Exam:
Vitals: T:98.6 BP:127/63 P:89 R:24 O2:100% RA 
PAIN: 0
General: nad
EYES: anicteric
Lungs: good air entry b/l, no C/W/R
CV: ___ no m/r/g
Abdomen: bowel sounds present, soft, distendned, minimally 
tender LUQ, multiple bruises
Ext: WWP, no edema
Skin: no rash
Neuro: alert, follows commands

 
Pertinent Results:
___ 06:20PM   GLUCOSE-151* UREA N-9 CREAT-0.7 SODIUM-132* 
POTASSIUM-4.4 CHLORIDE-98 TOTAL CO2-23 ANION GAP-15
___ 06:20PM   CALCIUM-7.8* PHOSPHATE-2.5* MAGNESIUM-2.0
___ 06:20PM   proBNP-2363*
___ 06:20PM   WBC-3.3* RBC-3.23* HGB-7.8* HCT-25.8* MCV-80* 
MCH-24.3* MCHC-30.4* RDW-20.5*
___ 06:20PM   NEUTS-64 BANDS-0 LYMPHS-15* MONOS-15* EOS-1 
BASOS-1 ATYPS-2* METAS-2* MYELOS-0
___ 06:20PM   HYPOCHROM-1+ ANISOCYT-2+ POIKILOCY-3+ 
MACROCYT-NORMAL MICROCYT-2+ POLYCHROM-1+ OVALOCYT-2+ TEARDROP-1+ 
BITE-OCCASIONAL
___ 06:20PM   PLT SMR-NORMAL PLT COUNT-176#
___ 06:20PM   ___ PTT-37.8* ___

 
CXR ___ IMPRESSION:  
Low lung volumes and probable small bilateral pleural effusions. 

Mild pulmonary edema. 
Patchy right base opacity may be due to combination of pleural 
effusion and pulmonary edema, although infectious process is not 
excluded in the appropriate clinical setting. 

Echo ___ Right ventricular chamber size and free wall motion 
are normal. The aortic valve leaflets (?#) appear structurally 
normal with good leaflet excursion. There is no aortic valve 
stenosis. No aortic regurgitation is seen. The mitral valve 
leaflets are structurally normal. Mild to moderate (___) mitral 
regurgitation is seen. [Due to acoustic shadowing, the severity 
of mitral regurgitation may be significantly UNDERestimated.] 
There is mild pulmonary artery systolic hypertension. There is 
no pericardial effusion. 

IMPRESSION: Biatrial enlargment. Preserved biventricular 
systolic function. Mild to moderate mitral and tricuspid 
regurgitation. Mild pulmonary artery systolic hypertension.
 
Brief Hospital Course:
___ w/ Afib, HTN, DL, COPD, pancreatic cancer s/p Whipple 
___,
developed mets to lung, nodes, and liver, now mets stable on
treatment protocol ___ with Gem/Abraxane + PEGPH20 (PEGylated
Recombinant Human Hyaluronidase) who p/w progressive SOB.

#SOB
Considering his rapid improvement in symptoms of dyspnea, cough,
and anasarca with diuresis overnight, etiology likely due to
fluid overload. TTE days prior to admit revealed mild-mod MR and 
do
not suspect this is the etiology as LVEF and thickness normal.
EKG and trop non-ischemic. LFTs and Renal function wnl. Culprit
likely gemcitabine. Pt diuresed over 10L Urine on 40 IV Lasix x 
2 on admit.
On ___, he was transitioned to 40 PO BID and he net negative 2L 
with 
stable Bun/Cr. His edema had entirely resolved and he was 
feeling 98%
back to his baseline per his report. BNP improved from 2363 to 
976 day prior to d/c.

-- cont 40 mg PO Lasix at 8 am and 1 pm (to be adjusted by Dr 
___
-- holding off on abx for now unless febrile/leukocytosis (never 
febrile inhouse)
-- repeat BNP as outpatient if needed to help guide lasix dosing
-- PFTs as outpatient for new dx of COPD seen on CXR
-- TEDS but pt refuses to wear
-- cont ___ elevation when resting
-- ___ to help with lasix dosing at home 
-- gave pt instructions on to when to give extra lasix in am

#Microcytic anemia
This is new as of ___. Ferritin 78. Iron 26. Transferrin 290.
TIBC 377. Iron Sat 6.8%. ? due to Whipple's. Received 125 mg IV 
___
-- guaiac stool was negative
-- primary heme/onc team to decide on po vs IV iron supplement 
as outpatient

#Pancreatic Cancer, Metastatic 
Will continue chemo per Dr. ___ with lasix ___ to 
help with SE of 
anasarca
-- cont Enoxaparin 80 mg SC BID per protocol

#Afib
HR was in ___ most of the hospitalization. However due to 
soft BP in low ___, we changed his metoprolol 375 to 87.5 q6 and 
still had to hold doses. We changed him to 300 mg XL qhs and 
next am his SBP was 110s and HR ___. 
-- cont verapamil 40 qam
-- cont dig 0.25 (dig level 1.1)
-- changed metoprolol 350 to 300 mg qhs 
-- ___ to help monitor vitals at home

#Steroid Induced Diabetes
-- cont home insulin w/ adequate control inpatient

#GERD
-- cont omeprazole

#Hyponatremia
Resolved and improved w/ diuresis

FEN: Diabetic 2gm salt restricted diet
DVT PROPHYLAXIS: lovenox BID
ACCESS: PORT
CODE STATUS: Full, confirmed on admission
HCP: ___
Phone ___
DISPO: Home with ___
BILLING: >30 min were spent coordinating care for discharge
______________
___, D.O.
Heme/Onc Hospitalist
___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Creon ___ CAP PO TID W/MEALS 
2. Digoxin 0.25 mg PO DAILY 
3. Omeprazole 20 mg PO BID 
4. Verapamil 40 mg PO Q24H 
5. OxycoDONE (Immediate Release)  5 mg PO Q6H:PRN pain 
6. Dexamethasone 8 mg PO 1X/WEEK (MO) 
7. Enoxaparin Sodium 80 mg SC Q12H 
8. Metoprolol Succinate XL 350 mg PO QPM 
9. Cyclobenzaprine 5 mg PO TID:PRN pain/muscle cramps 
10. Furosemide 40 mg PO DAILY 
11. Cetirizine 10 mg PO DAILY 
12. levemir 6 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin

 
Discharge Medications:
1. Cetirizine 10 mg PO DAILY 
2. Creon ___ CAP PO TID W/MEALS 
3. Cyclobenzaprine 5 mg PO TID:PRN pain/muscle cramps 
4. Digoxin 0.25 mg PO DAILY 
5. Furosemide 40 mg PO BID 
RX *furosemide 20 mg 2 tablet(s) by mouth twice a day Disp #*60 
Tablet Refills:*0
6. Glargine 6 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
7. Metoprolol Succinate XL 300 mg PO QHS 
RX *metoprolol succinate 100 mg 3 tablet(s) by mouth at bedtime 
Disp #*90 Tablet Refills:*0
8. Omeprazole 20 mg PO BID 
9. OxycoDONE (Immediate Release)  5 mg PO Q6H:PRN pain 
10. Dexamethasone 8 mg PO 1X/WEEK (MO) 
11. Enoxaparin Sodium 80 mg SC Q12H 
12. Verapamil 40 mg PO Q24H 
13. Albuterol Inhaler 2 PUFF IH Q4H:PRN sob or wheezing 
RX *albuterol sulfate 90 mcg 2 puff po q4h prn Disp #*1 Inhaler 
Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Non-cardiogenic Pulmonary Edema
Anasarca
Metastatic Pancreatic Cancer
Microcytic Anemia
Atrial Fibrillation
Steroid Induced Diabetes
GERD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Mr. ___,

It was a pleasure taking care of you in the hospital. You were 
admitted because you were having trouble breathing. This was 
because you were experiencing a side effect from the chemo that 
causes you to have a lot of fluid build up. You improved 
dramatically with IV Lasix. You will continue to take Lasix at 
home and Dr. ___ will help you adjust this dose. 

___ Dr. ___ if:
-- your arms and legs start getting puffy
-- you start to have a cough 
-- if any fevers or chills
-- if you start having some SOB

Come to the ER if you:
-- have severe shortness of breath
-- if you have chest pain

Your ___ at home will help you:
-- check your vital signs, including blood pressure and heart 
rate
-- make sure you are taking your meds as needed
-- listen to your lungs and assess your weight
-- also will help adjust your lasix dose with Dr. ___ 
-- make any other recommendations as needed

___ Dr ___ your PCP (his line was not working when I called him)
-- make a f/u appointment with him
-- put in a referral for obtaining Pulmonary Function Tests at 
___ to see if you have emphysema

To monitor your own fluid status:
1) Weigh yourself daily
2) Weigh yourself at the same time every day — before breakfast 
is best.
3) Use the same scale all the time
4) Wear the same amount of clothes when you weigh yourself
5) Empty your bladder before weighing
6) Record your weight on a daily record
7) The weight at which there is just a little bit of swelling in 
the ankles at the end of the day is your ideal weight-try
and maintain it
8) When taking diuretics avoid drinking too much in the way of 
fluids but check in with Dr. ___ you are getting chemo
9) You should drink no more than 3000 ml of fluid per day
10) If your weight goes up by more than ___ pounds (1.0 kg) in 
one day or by 5 pounds (2.5 kg) over a week, take an extra dose 
of 40 mg in the morning and ___ your doctor. 
 
Followup Instructions:
___